US05332739
Synthesis of 1,3-dimethyl-6-[4-(2-oxo-2-[4-chlorophenyl]ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 94)
The same treatment as in Example 32 was effected except that 3-chloropropiophenone was replaced with 2.4 g of 2-bromo-4'-chloroacetophenone, thereby obtaining 2.5 g of the crystals of 1,3-dimethyl-6-[4-(2-oxo-2-[4-chlorophenyl]ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 3-chloropropiophenone | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | 2-bromo-4'-chloroacetophenone | 2.4 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1,3-dimethyl-6-[4-(2-oxo-2-[4-chlorophenyl]ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCN(CC1)CC(C1=CC=C(C=C1)Cl)=O)=O)C)=O | C18H21ClN4O3
product | 1,3-dimethyl-6-[4-(2-oxo-2-[4-chlorophenyl]ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 2.5 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CC(C1=CC=C(C=C1)Cl)=O)=O)C)=O | InChI=1S/C18H21ClN4O3.ClH/c1-20-16(11-17(25)21(2)18(20)26)23-9-7-22(8-10-23)12-15(24)13-3-5-14(19)6-4-13;/h3-6,11H,7-10,12H2,1-2H3;1H
